US07767675B2
Step 1. 6-(2,2-dimethoxyethoxy)quinoline
To a cooled (0° C.) solution of quinolin-6-ol (5.81 g, 40 mmol) in N,N-dimethylformamide (30 mL) was slowly added a 1M solution of sodium hexamethyldisilazane in THF (40 mL, 40 mmol). The mixture was stirred for 15 min after which 2-bromo-1,1-dimethoxyethane (5.18 mL, 44 mmol) was added. The reaction mixture was then refluxed conditions for 6 h. The solvent was evaporated under reduced pressure. The residue was diluted with diethyl ether (100 mL) and washed with water, brine, dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography eluting with ethyl acetate in hexanes. (0-50%) to give the desired product. (9 g, 96%) LCMS: (M+H)+=233.9.

reactant | quinolin-6-ol | 40 mmol, 5.81 g | N1=CC=CC2=CC(=CC=C12)O | C9H7NO
reactant | sodium hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C.[Na]
reactant | THF | 40 mmol, 40 mL | C1CCOC1 | C4H8O
reactant | 2-bromo-1,1-dimethoxyethane | 44 mmol, 5.18 mL | BrCC(OC)OC | C4H9BrO2
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 6-(2,2-dimethoxyethoxy)quinoline | COC(COC=1C=C2C=CC=NC2=CC1)OC | C13H15NO3
